US08541445B2
Step 7: 2-(2-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl)ethanenitrile
A solution of 2-[2-(1-tritylpyrazolo[5,4-b]pyridin-4-yl)thiazol-4-yl]acetonitrile (83 mg, 0.1716 mmol) in DCM (3 ml) was treated with triethylsilane (0.5 ml) followed by TFA (0.5 mL). After 15 minutes the mixture was concentrated in vacuo and purified by column chromatography (70:9:1 DCM/MeOH/NH4OH) to give the product as a light tan solid (6.5 mg, 16% Yield). 1H NMR (DMSO, 400 MHz) δ 4.37 (2H, s), 7.72 (1H, d), 7.94 (1H, s), 8.63 (1H, s), 8.66 (1H, d), 13.98 (1H, br s); MS (ES+) 242.00

reactant | 2-[2-(1-tritylpyrazolo[5,4-b]pyridin-4-yl)thiazol-4-yl]acetonitrile | 0.1716 mmol, 83 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC=2C1=NC=CC2C=2SC=C(N2)CC#N | C30H21N5S
reactant | triethylsilane | 0.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiazol-4-yl)ethanenitrile | 6.5 mg, 16% Yield | N1N=CC=2C1=NC=CC2C=2SC=C(N2)CC#N | C11H7N5S
